US07737166B2
7-Fluoro-5-methyl-2-[(methylamino)methyl]-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-273)
A catalyst 10% palladium-carbon (100 mg) was added to an ethanol (6 ml) solution of benzyl [(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)methyl]methylcarbamate (I-272) (242 mg, 0.564 mmol), followed by stirring under hydrogen atmosphere at room temperature for 6 hours. The insoluble matter was separated by filtration, the filtrate was concentrated, and the resulting residue was purified by silica gel column chromatography (eluent, chloroform:methanol=10:1, v/v) to obtain the entitled compound (115 mg, 69%) as a colorless oily substance.

reactant | benzyl [(4-cyano-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazol-2-yl)methyl]methylcarbamate | 0.564 mmol, 242 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)CN(C(OCC2=CC=CC=C2)=O)C)F)C2=CC=CC=C2)C | C25H20FN3O3
catalyst | palladium-carbon | 100 mg | [C].[Pd]
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 7-Fluoro-5-methyl-2-[(methylamino)methyl]-6-phenyl-1,3-benzoxazole-4-carbonitrile | 115 mg, 69% | FC=1C(=C(C(=C2N=C(OC21)CNC)C#N)C)C2=CC=CC=C2 | C17H14FN3O
